US06159961
To a solution of methyl 4-chloro-4-fluoro-3-oxobutyrate (31 g) and isopentylnitrite (25.8 ml) in dichloromethane (120 ml) was added dropwise acetylchloride (13 ml) under ice-cooling with stirring and the mixture was stirred for 3 hours at 5° C. to 10° C. The resulting solution was poured into water (300 ml) and adjusted to pH 3.0 with saturated aqueous sodium bicarbonate. The separated organic phase was washed with water (300 ml) and dried with magnesium sulfate and evaporated in vacuo to give methyl 4-chloro-4-fluoro-2-(hydroxyimino)-3-oxobutyrate.

reactant | methyl 4-chloro-4-fluoro-3-oxobutyrate | 31 g | ClC(C(CC(=O)OC)=O)F | C5H6ClFO3
reactant | isopentylnitrite | 25.8 ml | C(CC(C)C)ON=O | C5H11NO2
reactant | acetylchloride | 13 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | water | 300 ml | O | H2O
product | methyl 4-chloro-4-fluoro-2-(hydroxyimino)-3-oxobutyrate | ClC(C(C(C(=O)OC)=NO)=O)F | C5H5ClFNO4
